US04030925
16. 1-[4-(2-Acetylhydrazino)phenyl]-3-phenylthiourea (NA-17)
1-Acetyl-2-(4-aminophenyl)hydrazine (8.25 g, 0.05 mole) and phenyl isothiocyanate (6.8 g, 0.05 mole) were suspended in acetonitrile (100 ml). The resulting mixture was heated at reflux with stirring for 5 minutes. The product separated from solution as a white solid. After chilling, the product was removed from the reaction mixture by filtration and washed thoroughly with ether. Yield 14.5 g (96%), m.p. 205°-207° C.

reactant | 1-Acetyl-2-(4-aminophenyl)hydrazine | 0.05 mole, 8.25 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | phenyl isothiocyanate | 0.05 mole, 6.8 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[4-(2-Acetylhydrazino)phenyl]-3-phenylthiourea | C(C)(=O)NNC1=CC=C(C=C1)NC(=S)NC1=CC=CC=C1 | C15H16N4OS
